US06734191B2
AMD9725: Preparation of (1H-benzimidazol-2-ylmethyl)-(4-diallylaminomethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine
To a solution of N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (156 mg, 0.39 mmol) in CH2Cl2 (4 mL) was added N,N-diisopropylethylamine (65 μL, 0.37 mmol). Allyl bromide (35 μL, 0.40 mmol) was added dropwise and the resultant mixture stirred at room temperature for 3 days. The reaction mixture was diluted with CH2Cl2 (50 mL) and washed consecutively with H2O (2×5 mL), saturated aqueous NaHCO3 (5 mL) and saturated aqueous NaCl (5 mL). The aqueous layer was extracted with CH2Cl2 (20 mL) and the combined organic extracts were dried (MgSO4) and concentrated under reduced pressure to afford a light yellow foam (100 mg). Purification by column chromatography on silica gel (200:1:1 followed by 100:1:1—CH2Cl2:MeOH:NH4OH) followed by radial chromatography on silica gel (1000:1:1—EtOAc:MeOH:NH4OH) afforded AMD9725 (24.5 mg, 14%) as a light yellow foam. 1H NMR (CDCl3) δ1.62-1.75 (m, 1H), 1.97-2.08 (m, 2H), 2.22-2.30 (m, 1H), 2.66-2.77 (m, 1H), 2.77-2.92 (m, 1H), 3.01 (d, 4H, J=6.3 Hz), 3.48 (s, 2H), 3.74 (s, 2H), 3.99 (d, 1H, J=16.8 Hz), 4.07-4.12 (m, 1H), 4.18 (d, 1H, J=16.8 Hz), 5.09-5.17 (m, 4H), 5.83 (ddt, 2H, J=16.8, 10.2, 6.3 Hz), 7.15-7.20 (m, 5H), 7.34 (d, 2H, J=7.8 Hz), 7.41 (d, 1H, J=7.8 Hz), 7.48-7.56 (m, 1H), 7.60-7.69 (m, 1H), 8.69 (d, 1H, J=4.2 Hz); 13C NMR (CDCl3) δ19.69 21.65, 27.53, 46.90, 52.08, 54.63, 55.44, 58.47, 109.24, 115.61, 117.04, 119.79, 120.49, 126.67, 127.13, 132.99, 134.17, 135.45, 136.13, 136.56, 145.22, 154.64, 155.80. ES-MS m/z 478.4 (M+H). Anal. Calcd. for C31H35N5.0.5H2O: C, 76.51; H, 7.46; N, 14.39. Found: C, 76.67; H, 7.45; N, 14.18.

reactant | N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.39 mmol, 156 mg | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=C(C=C2)CN)C2CCCC=1C=CC=NC21 | C25H27N5
reactant | N,N-diisopropylethylamine | 0.37 mmol, 65 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Allyl bromide | 0.40 mmol, 35 μL | C(C=C)Br | C3H5Br
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (1H-benzimidazol-2-ylmethyl)-(4-diallylaminomethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 100 mg | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C=C2)CN(CC=C)CC=C | C31H35N5
